US07196080B2
4-Iodophenol was reacted with 2-chlorodimethylamioethane hydrochloride in DMF under heating in the presence of potassium carbonate to obtain [2-(4-iodophenoxy)ethyl]dimethylamine. The obtained compound was reacted in toluene under heating in the presence of t-butyl piperazine-1-carboxylate, sodium t-butoxide, tri(2-methylphenyl)phosphine and a catalytic amount of tris(dibenzylideneacetone)dipalladium(0) to obtain an objective compound.

reactant | 4-Iodophenol | IC1=CC=C(C=C1)O | C6H5IO
reactant | hydrochloride | Cl | ClH
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | CN(C)C=O | C3H7NO
product | [2-(4-iodophenoxy)ethyl]dimethylamine | IC1=CC=C(OCCN(C)C)C=C1 | C10H14INO
